US09029374B2
A solution of 8-(1-bromoethyl)-N-(2-(dimethylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (85 mg, 0.16 mmol) and 4-fluoro-N-methylaniline (0.077 mL, 0.64 mmol) in NMP (1 mL) was stirred at room temperature for 4 h then at 45° C. for 1 h. The reaction mixture was allowed to cool to room temperature and purified by preparative HPLC using a Waters X-Bridge reverse-phase column (C-18, 5 microns silica, 19 mm diameter, 100 mm length, flow rate of 40 mL/minute) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions containing the desired compound were evaporated to dryness. The residue was triturated in diethyl ether, collected by filtration and dried to afford N-(2-(dimethylamino)ethyl)-8-(1-((4-fluorophenyl)(methyl)amino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide (42.0 mg, 53.1%) as a white solid. Mass Spectrum: M+H+ 497. NMR Spectrum: (CDCl3) 1.66 (d, 3H), 2.33 (s, 6H), 2.33 (bs, 2H), 2.60 (bs, 2H), 2.61 (s, 3H), 3.09-3.24 (m, 4H), 3.44-3.57 (m, 4H), 3.57-3.66 (m, 2H), 5.36 (q, 1H), 5.48 (s, 1H), 6.75 (dd, 2H), 6.77 (dd, 2H), 7.14 (bs, 1H), 8.33 (s, 1H), 8.44 (s, 1H).

reactant | 8-(1-bromoethyl)-N-(2-(dimethylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.16 mmol, 85 mg | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)NCCN(C)C
reactant | 4-fluoro-N-methylaniline | 0.64 mmol, 0.077 mL | FC1=CC=C(NC)C=C1 | C7H8FN
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | N-(2-(dimethylamino)ethyl)-8-(1-((4-fluorophenyl)(methyl)amino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 42.0 mg, 53.1% | CN(CCNC(=O)C=1C=C2C(C=C(OC2=C(C1)C(C)N(C)C1=CC=C(C=C1)F)N1CCOCC1)=O)C | C27H33FN4O4
